US04826834
6-Ethoxycarbonylmethylthio-[1,2,4]triazolo[4,3-b]pyridazine.
Ethyl thioglycollate, 1.2 g, is dissolved in 30 ml of dry ethanol, to which 400 mg of sodium hydride (60% in an oil) is added under cooling with ice water and the mixture stirred for 10 minutes. Then 1.55 g of 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine is added and stirred at room temperature for 67 hours. The reaction mixture is treated with water and extracted twice with chloroform. The combined extract is washed with saline and dried over anhydrous potassium carbonate. The solvent is evaporated under reduced pressure, and the residue is purified by column chromatogaraphy (on 40 g of silica gel, developed and eluted with ethyl acetate), to give 1.93 g of the desired compound as colorless crystals of m.p. 130°-133° C.

reactant | Ethyl thioglycollate | CCOC(=O)CS | C4H8O2S
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine | 1.55 g | ClC=1C=CC=2N(N1)C=NN2 | C5H3ClN4
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Ethoxycarbonylmethylthio-[1,2,4]triazolo[4,3-b]pyridazine | 1.93 g | C(C)OC(=O)CSC=1C=CC=2N(N1)C=NN2 | C9H10N4O2S
